data/oMe_Silver.jsonl
{"reaction_id": "NR-324_1-C1CCCCC1_2-c1ccccc1_3-OC_4-C1CCCCC1_5-C1CC1","level": "medium","name": "Wohl-Ziegler Reaction","reactants_smiles": ["C1CCCCC1C(c1ccccc1)=C(OC)C(C1CCCCC1)C1CC1","O=C1CCC(=O)N1Br","CC(C)(C#N)N=NC(C)(C#N)C"],"products_smiles": ["C1CCCCC1C(c1ccccc1)=C(OC)C(C1CCCCC1)(C1CC1)Br"],"conditions": "Heat or Light, Non-polar solvent (e.g. CCl4)","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "radical","subtype": "radical_initiation","intermediate_smiles": "C[C](C)C#N","step_weight": 0,"rationale": "Thermal or photolytic homolysis of the azo initiator produces a stabilized carbon-centered radical due to adjacent electron-withdrawing cyano groups, facilitating radical chain initiation."},{"step": 2,"type": "radical","subtype": "radical_initiation","intermediate_smiles": "[Br]","step_weight": 0,"rationale": "The carbon radical abstracts bromine from NBS, generating a bromine radical; NBS is an effective bromine source due to the weak N–Br bond and resonance stabilization of the succinimide byproduct."},{"step": 3,"type": "radical","subtype": "radical_propagation","intermediate_smiles": "C1CCCCC1C(c1ccccc1)=C(OC)[C](C1CCCCC1)C1CC1","step_weight": 0,"rationale": "The bromine radical abstracts an allylic hydrogen from the alkene, favored by the resonance stabilization of the resulting allylic radical and the relatively weak allylic C–H bond."},{"step": 4,"type": "radical","subtype": "radical_propagation","intermediate_smiles": "C1CCCCC1C(c1ccccc1)=C(OC)C(C1CCCCC1)(C1CC1)Br","step_weight": 0,"rationale": "The allylic radical reacts with molecular bromine (from NBS equilibrium) to form the C–Br bond, driven by the stability of the product and the high reactivity of bromine radicals."}],"description": "Under heat or light in a non-polar solvent, the NBS-based Wohl–Ziegler reaction generates bromine radicals that selectively allylically brominate the alkene. Radical initiation produces a stable radical source, which abstracts allylic hydrogen, followed by bromine radical capture to yield the brominated product."}
{"reaction_id": "NR-337_1-c2ccccc2_2-CC_3-C#N_4-CC(C)C_5-[N+](=O)[O-]","level": "medium","name": "Rosenmund-von Braun Reaction","reactants_smiles": ["c1(I)c(c2ccccc2)c(CC)c(C#N)c(CC(C)C)c1[N+](=O)[O-]","N#C[Cu]"],"products_smiles": ["c1(C#N)c(c2ccccc2)c(CC)c(C#N)c(CC(C)C)c1[N+](=O)[O-]"],"conditions": "High temperature","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "[Cu](I)(C#N)c1c(c2ccccc2)c(CC)c(C#N)c(CC(C)C)c1[N+](=O)[O-]","step_weight": 0,"rationale": "High temperature promotes oxidative addition of the aryl iodide to Cu(I), facilitated by the weak C–I bond and good leaving group ability of iodide, forming a higher oxidation state Cu(III) intermediate with CN ligand."},{"step": 2,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1(C#N)c(c2ccccc2)c(CC)c(C#N)c(CC(C)C)c1[N+](=O)[O-]","step_weight": 0,"rationale": "Reductive elimination from Cu(III) is favored by the strong bond formation between the aryl group and the nucleophilic CN, releasing stable Cu(I) and driving the reaction thermodynamically."}],"description": "In the Rosenmund–von Braun reaction, aryl iodide undergoes oxidative addition to a copper(I) cyanide species at high temperature, forming an aryl–Cu(III)–CN intermediate. Subsequent reductive elimination yields the aryl nitrile, driven by strong C–CN bond formation and thermodynamic stability."}
